US08058276B2
Step 1.3*: 6-Hydroxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
5.5 ml of a 1 M solution of Bu4NF in THF are added to a solution of 1.045 g (2.18 mMol) 6-triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide dissolved in 25 ml THF. After 55 min, the solution is concentrated in vacuo, the residue redissolved in water and EtOAc, the aq. layer separated off and extracted twice with EtOAc. The organic layers are washed twice with water and brine, dried (Na2SO4) and concentrated. Trituration in hexane gives the title compound.

reactant | Bu4NF | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | 6-triisopropylsilanyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 2.18 mMol, 1.045 g | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C24H29F3N2O3Si
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 6-Hydroxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)O)(F)F | C15H9F3N2O3
